US07750003B2
Phenyl N-[4-[4-(2-cyclopropylsulfonylpropan-2-yl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]carbamate
Phenyl chloroformate (0.215 mL, 1.71 mmol) was added dropwise to 4-[4-(2-cyclopropylsulfonylpropan-2-yl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]aniline (712 mg, 1.71 mmol) and sodium bicarbonate (215 mg, 2.56 mmol) in dioxane (15 mL) under nitrogen. The resulting suspension was stirred at RT for 2 hours. The reaction mixture was evaporated to dryness and redissolved in ethyl acetate (100 mL) and washed with water (100 mL). The organic layer was dried (MgSO4), filtered and evaporated to give the desired material (983 mg).

reactant | Phenyl chloroformate | 1.71 mmol, 0.215 mL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 4-[4-(2-cyclopropylsulfonylpropan-2-yl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]aniline | 1.71 mmol, 712 mg | C1(CC1)S(=O)(=O)C(C)(C)C1=NC(=NC(=C1)N1[C@H](COCC1)C)C1=CC=C(N)C=C1 | C21H28N4O3S
reactant | sodium bicarbonate | 2.56 mmol, 215 mg | C([O-])(O)=O.[Na+]
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | Phenyl N-[4-[4-(2-cyclopropylsulfonylpropan-2-yl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]carbamate | 983 mg | C1(CC1)S(=O)(=O)C(C)(C)C1=NC(=NC(=C1)N1[C@H](COCC1)C)C1=CC=C(C=C1)NC(OC1=CC=CC=C1)=O | C28H32N4O5S
